US06245200B1
Using the surfactant tridodecylmethylammonium chloride (TDAC) at a concentration of approximately 8%, hexanol at 10%, and the remainder octane, MOS2 particles are formed with an average diameter, as determined by lights-cattering and high-resolution transmission electron microscopy (HRTEM), of approximately 3.0 nm. In a solution using the surfactant didodecyldimethylammonium bromide (DDAB) at a concentration of approximately 10%, hexanol at 11%, and the remainder decane, MoS2 particles are formed with an average diameter, as determined by light-scattering and transmission electron microscopy techniques, of approximately 4.5 nm. In a solution using the surfactant DDAB in toluene at a concentration of approximately 0.5%, MoS2 particles are formed with an average diameter, as determined by light-scattering and TEM, of approximately 8-10 nm. The as-synthesized MOS2 clusters were purified to remove excess reactants, surfactants or reaction by-products by extraction from octane into acetonitrile, dried, and then added to water to form the catalyst solution as noted above.

reactant | hexanol | C(CCCCC)O | C6H14O
catalyst | didodecyldimethylammonium bromide | [Br-].C(CCCCCCCCCCC)[N+](C)(C)CCCCCCCCCCCC
product | decane | CCCCCCCCCC | C10H22
